US08580762B2
N-(2-amino-4-(trifluoromethoxy)phenyl)-3-(3-((((3aR,4R,6R,6aS)-6-(4-((2,4-dimethoxybenzyl)amino)-7H-pyrrolo[2,3-d]pyrimidin-7-yl)-2,2-dimethyltetrahydro-3aH-cyclopenta[d][1,3]dioxol-4-yl)methyl)(isopropyl)amino)cyclobutyl)propanamide
N,N,N′,N-Tetramethyl-0-(7-azabenzotriazol-1-yl)uronium Hexafluorophosphate (1.19 g, 3.14 mmol) added to a solution of 3-(3-((((3aR,4R,6R,6aS)-6-(4-((2,4-dimethoxybenzyl)amino)-7H-pyrrolo[2,3-d]pyrimidin-7-yl)-2,2-dimethyltetrahydro-3aH-cyclopenta[d][1,3]dioxol-4-yl)methyl)(isopropyl)amino)cyclobutyl)propanoic acid (1.3 g, 2.1 mmol) and N,N-Diisopropylethylamine (1.20 mL, 6.90 mmol) and 4-(trifluoromethoxy)benzene-1,2-diamine (0.482 g, 2.51 mmol) in N,N-Dimethylformamide (13.0 mL, 167 mmol). The reaction was stirred overnight at RT and was partially concentrated to ca. 2 mls and then NaHCO3 (saturated) was added. The mixture was extracted with EtOAc (3×) and the combined organics were dried with MgSO4 filtered and concentrated. The residue was purified by flash chromatography (DCM/7N NH3 in MeOH 95:5) to the desired amide (1.4 g) as a solid.

reactant | 3-(3-((((3aR,4R,6R,6aS)-6-(4-((2,4-dimethoxybenzyl)amino)-7H-pyrrolo[2,3-d]pyrimidin-7-yl)-2,2-dimethyltetrahydro-3aH-cyclopenta[d][1,3]dioxol-4-yl)methyl)(isopropyl)amino)cyclobutyl)propanoic acid | 2.1 mmol, 1.3 g | COC1=C(CNC=2C3=C(N=CN2)N(C=C3)[C@@H]3C[C@@H]([C@@H]2[C@H]3OC(O2)(C)C)CN(C2CC(C2)CCC(=O)O)C(C)C)C=CC(=C1)OC | C34H47N5O6
reactant | N,N-Diisopropylethylamine | 6.90 mmol, 1.20 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 4-(trifluoromethoxy)benzene-1,2-diamine | 2.51 mmol, 0.482 g | FC(OC=1C=C(C(=CC1)N)N)(F)F | C7H7F3N2O
reactant | N,N-Dimethylformamide | 167 mmol, 13.0 mL | CN(C=O)C | C3H7NO
product | N-(2-amino-4-(trifluoromethoxy)phenyl)-3-(3-((((3aR,4R,6R,6aS)-6-(4-((2,4-dimethoxybenzyl)amino)-7H-pyrrolo[2,3-d]pyrimidin-7-yl)-2,2-dimethyltetrahydro-3aH-cyclopenta[d][1,3]dioxol-4-yl)methyl)(isopropyl)amino)cyclobutyl)propanamide | NC1=C(C=CC(=C1)OC(F)(F)F)NC(CCC1CC(C1)N(C(C)C)C[C@H]1C[C@H]([C@@H]2OC(O[C@@H]21)(C)C)N2C=CC1=C2N=CN=C1NCC1=C(C=C(C=C1)OC)OC)=O | C41H52F3N7O6
